US06433211B1
A mixture containing ethyl p-cyanobenzoate (87.5 g, 0.5 mol), methanol (192.5 g), and water (449.2 g) was placed in a 1 l-flask. The mixture was heated to 82° C. with stirring by use of a mechanical stirrer. After the temperature became stable, a 20% aqueous solution of sodium hydroxide was added to the mixture so as to adjust the pH of the mixture at 9.0-9.3. When four hours had elapsed after the reaction started, 20% sodium hydroxide (96.7 g) was added. Liquid chromatographic analysis revealed that the reaction mixture contained 69.1 g of p-cyanobenzoic acid (yield 94%). The reaction mixture was cooled to 30° C., and hydrochloric acid was added to the mixture to lower the pH to 3.1. The mixture was heated again to 82° C., and methanol was added thereto until the mixture dissolved. The resultant mixture was cooled for crystallization, to thereby obtain 64.8 g of p-cyanobenzoic acid crystal (purity 97.5%, yield 86%).

reactant | ethyl p-cyanobenzoate | 0.5 mol, 87.5 g | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
reactant | methanol | 192.5 g | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 96.7 g | [OH-].[Na+]
solvent | water | 449.2 g | O | H2O
product | p-cyanobenzoic acid | 69.1 g, yield 94% | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
